US06936602B1
In methanol (87 ml) was dissolved tert-butyl 4-[(benzyloxycarbonyl)(2-ethoxyethyl)amino]butyrate (8.7 g). To the solution was added 10% palladium/carbon (0.87 g), and the mixture was stirred for 3 hours under hydrogen atmosphere. 10% palladium/carbon was removed by filtration with Celite, and the solvent of the resulting solution was removed under reduced pressure to give tert-butyl 4-[(2-ethoxyethyl)amino]butyrate (5.5 g).

reactant | tert-butyl 4-[(benzyloxycarbonyl)(2-ethoxyethyl)amino]butyrate | 8.7 g | C(C1=CC=CC=C1)OC(=O)N(CCCC(=O)OC(C)(C)C)CCOCC | C20H31NO5
solvent | methanol | 87 ml | CO | CH4O
catalyst | palladium/carbon | 0.87 g | [Pd] | Pd
product | tert-butyl 4-[(2-ethoxyethyl)amino]butyrate | 5.5 g | C(C)OCCNCCCC(=O)OC(C)(C)C | C12H25NO3
